US07276606B2
(3,5-Bis-trifluoromethyl-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 3,5-bis(trifluoromethyl)benzoyl chloride, and indole according to GP 2. Yield, 8%. 1H-NMR (CD3OD): δ=6.22 (d, J=0.8 Hz, 1H), 6.29 (s, br., 1H), 6.79 (t, J=7.5 Hz, 1H), 7.05-7.14 (m, 2H), 7.16-7.27 (m, 2H), 7.37 (s, br., 1H), 7.42-7.52 (m, 2H), 7.58 (“t”, J≈7.3 Hz, 1H), 7.77 (s, br., 2H), 7.96 (s, br., 1H), 7.99 (dd, J=7.8 Hz, J=1.2 Hz, 2H), 8.12 (d, J=7.9 Hz, 1H); (+)-ESI-MS: m/z=537 [M+H]+, 420 [M-indole+H]+; (−)-ESI-MS: m/z=535 (M−H)−.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (3,5-Bis-trifluoromethyl-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12)(F)F | C30H18F6N2O
